US04654360
1-Benzyl-2-chloro-3-phenylthioindole
A solution of thionyl chloride (0.03 ml, 0.054 g, 0.45 mmol) in dry dichloromethane (5 ml) was added dropwise to a stirred solution of 1-benzyl-3-phenylsulfinylindole (0.150 g, 0.45 mmol) in dry dichloromethane (20 ml), containing suspended sodium bicarbonate (1 g), maintained at 0° C. One half hour after the addition was completed the reaction was quenched with a saturated solution of aqueous sodium bicarbonate. The organic phase was separated, combined with a dichloromethane extract of the aqueous phase and the combined organic phases were dried and evaporated in vacuo. Crystallization of the residue from dichloromethane/hexane gave the title product.

reactant | thionyl chloride | 0.45 mmol, 0.03 ml, 0.054 g | S(=O)(Cl)Cl | Cl2OS
reactant | 1-benzyl-3-phenylsulfinylindole | 0.45 mmol, 0.150 g | C(C1=CC=CC=C1)N1C=C(C2=CC=CC=C12)S(=O)C1=CC=CC=C1 | C21H17NOS
reactant | sodium bicarbonate | 1 g | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
product | 1-Benzyl-2-chloro-3-phenylthioindole | C(C1=CC=CC=C1)N1C(=C(C2=CC=CC=C12)SC1=CC=CC=C1)Cl | C21H16ClNS
